US09447074B2
7-{5-chloro-2[(2-pyridinylmethyl)oxy]phenyl}-1,2,3,4-tetrahydroisoquinoline
To an ice cooled solution of, 1,1-dimethylethyl 7-(5-chloro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate, (0.28 g) in DCM (1 ml) was added TFA (1 ml) and this was stirred at room temperature overnight. The reaction mixture was dissolved in water and backwashed with ethyl acetate. The aqueous layer was neutralised with aqueous sodium bicarbonate and extracted with ethyl acetate. The organics were dried over sodium sulphate and concentrated in vacuo to yield the title compound, 0.12 g

reactant | 1,1-dimethylethyl 7-(5-chloro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 0.28 g | ClC=1C=CC(=C(C1)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)OCC1=NC=CC(=C1)C | C27H29ClN2O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7-{5-chloro-2[(2-pyridinylmethyl)oxy]phenyl}-1,2,3,4-tetrahydroisoquinoline | ClC=1C=CC(=C(C1)C1=CC=C2CCNCC2=C1)OCC1=NC=CC=C1 | C21H19ClN2O
